US05945421
[4-(4-quinolin-2-ylmethyl-piperazin-1-yl)-phenyl]-methanol oil;
A mixture of 3-quinoline carboxaldehyde (1 g, 6.36 mmol) and 1-phenylpiperazine (6.68 mmol), and sodium triacetoxyborohydride (2 g, 9.6 mmol) and 20 mL of dichloroethane, is stirred at room temperature for 18 hours. The resulting mixture is partitioned between chloroform and aqueous sodium bicarbonate, the organic layer is dried over sodium sulfate, and the solvents were removed under reduced pressure. The residue was recrystallized from ethyl acetate to give 1.2 g of the title compound as a white solid, mp 145-147° C.

reactant | 3-quinoline carboxaldehyde | 6.36 mmol, 1 g | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 1-phenylpiperazine | 6.68 mmol | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium triacetoxyborohydride | 9.6 mmol, 2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | [4-(4-quinolin-2-ylmethyl-piperazin-1-yl)-phenyl]-methanol | 1.2 g | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C1=CC=C(C=C1)CO | C21H23N3O
